US08314253B2
To a solution of 3.5 mL of DIPA in 6 mL THF were added dropwise 9.9 mL of n-butyllithium (2.5M in Hept) at −20° C. After 20 min, 12 mL of toluene were added and the solution was stirred for 30 min. The mixture was cooled to −50° C., 4.5 mL of tert.-butyl acetate were added and stirring was continued for 1 h at −50° C. Then, 2.5 g of rac-(1R*,8R*)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-one dissolved in 6 mL of toluol were added and the solution was stirred at −50 to −20° C. over 2.5 h. The reaction mixture was poured on ice/aq. HCl, the organic phase was separated, washed with sat. aq. NaHCO3, dried over Na2SO4 and concentrated in vacuo. The crude reaction product was purified by CC with Hept/EtOAc (4:1) to yield 2.6 g of the major racemate, rac-(1R*,8R*,9R*)-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-acetic acid tert-butyl ester as beige solid and 0.4 g of the minor racemate, rac-(1R*,8R*,9S*)-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-acetic acid tert-butyl ester as yellow oil.

reactant | n-butyllithium | 2.5M, 9.9 mL | C(CCC)[Li]
reactant | tert.-butyl acetate | 4.5 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | rac-(1R*,8R*)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-one | 2.5 g | C12C3=CC=CC=C3C(C(C1)=O)CC2 | C12H12O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | toluol | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | rac-(1R*,8R*,9S*)-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1(C2C3=CC=CC=C3C(C1)CC2)O)=O | C18H24O3
